US04794113
A mixture of 30 g of p-hydroxyacetophenone and 30 g of potassium carbonate was stirred in 500 ml of ethanol at 60° C. for 30 minutes. After cooling to room temperature, 52 g of ethyl 5-bromo-2,2-dimethylpentanoate was added to the reaction mixture. The resulting mixture was heated under reflux overnight while stirring. The solvent was removed from the reaction mixture by distillation and, 500 ml of chloroform and 300 ml of a 5% aqueous hydrogen sodium carbonate solution were added to the residue. After stirring the mixture, the chloroform layer was fractionated and washed successively with water and then with a saturated aqueous sodium chloride solution followed by drying over anhydrous sodium sulfate. Removal of chloroform by distillation gave a residual oily substance. The oily substance was subjected to silica gel column chromatography and eluted using chloroform as an eluant to give 42 g of ethyl p-acetylphenoxy-2,2-dimethylpentanoate as an oily substance. The thus obtained oily substance was dissolved in 1.6 l. of anhydrous methylene chloride and 24 g of bromine was dropwise added to the solution under ice cooling while stirring to allow to react for 3 hours. To the reaction mixture was added 1 liter of ice water. After thoroughly stirring, the organic layer was successively washed with water and with a saturated aqueous sodium chloride solution followed by drying over anhydrous sodium sulfate. Removal of methylene chloride by distillation gave the desired product, ethyl 5-[p-(bromoacetyl)phenoxy]-2,2-dimethylpentanoate, as an oily substance.

reactant | p-hydroxyacetophenone | 30 g | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | potassium carbonate | 30 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 5-bromo-2,2-dimethylpentanoate | 52 g | BrCCCC(C(=O)OCC)(C)C | C9H17BrO2
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | ethyl p-acetylphenoxy-2,2-dimethylpentanoate | 42 g | C(C)(=O)C1=CC=C(OC(C(C(=O)OCC)(C)C)CC)C=C1 | C17H24O4
